US06579328B2
1-(3,5-di-tert-butylphenoxy)-2,2,6,6-tetramethylpiperidine
The procedure of Example 1 is repeated using 1.50 g (9.6 mmol) of 1-oxyl-2,2,6,6-tetramethylpiperidine, 2.38 g (24 mmol) of tert-butyl nitrite, 5.8 mg (0.0096 mmol) of (S,S)-(+)-N,N-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II), 90 mL of pyridine and 3.93 g (19.2 mmol) of 3,5-di-tert-butylaniline at 70° C. The crude product obtained is purified by vacuum flash chromatography (heptane) to give 2.8 g of the title compound as an off-white solid in 84.8% yield. The structure is confirmed by 1Hnmr and elemental analysis.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidine | 9.6 mmol, 1.50 g | ON1C(CCCC1(C)C)(C)C | C9H19NO
reactant | tert-butyl nitrite | 24 mmol, 2.38 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 3,5-di-tert-butylaniline | 19.2 mmol, 3.93 g | C(C)(C)(C)C=1C=C(N)C=C(C1)C(C)(C)C | C14H23N
solvent | pyridine | 90 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3,5-di-tert-butylphenoxy)-2,2,6,6-tetramethylpiperidine | 2.8 g, 84.8% yield | C(C)(C)(C)C=1C=C(ON2C(CCCC2(C)C)(C)C)C=C(C1)C(C)(C)C | C23H39NO
